Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Confusion, fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with CAD, arthritis presents for confusion, fall at 
assisted living. His stepson reports that he seemed confused on 
the phone the night prior to admission, and then was found on 
the third floor of his building, when he usually lives on the 
second floor. Stepson states this is quite unusual behavior for 
him. Per staff at ___, pt has been unlike his normal 
self, reportedly refusing medications and being uncooperative. 
The morning of admission, the patient reports walking to the 
bathroom with his walker, and then waking up on the bathroom 
floor. Cannot recall events leading to the fall, but noted that 
his right hand and L hip/shoulder were painful. Denies any 
headstrike. Thinks he lost consciousness. No urinary 
incontinence, tongue biting. Could not corroborate story with 
any staff at ___. Was sent to ED from home after 
fall.

Of note, pt was recently seen at ___ for ongoing confusion on 
___, treated for UTI with ciprofloxacin ___ - ___. 
Completed course. Patient lives at ___, where he 
receives personal care assistance, but no nursing care. His meds 
are administered to him by staff.

In the ED, initial vitals were: 97.0 87 182/73 16 99% RA. He was 
found to have a UA with 23 WBC, 23 RBC, small Leuk; normal WBC, 
BUN/Cr ___. He received ceftriaxone 1 gm after 2 sets of 
blood cultures.

On the floor, patient denies chest pain, shortness of breath, 
abdominal pain, nausea, vomiting, leg swelling, rash. No 
palpitations, lightheadedness, dizziness. Endorses pain in his R 
thumb.

Review of systems:  
As per HPI
 
Past Medical History:
- Colon cancer s/p laparoscopic right colectomy ___, 
pT2N0M1, suspected liver metastases, but further work up 
deferred due to goals of care
- CAD
- Symptomatic 2:1 AV block and carotid sinus hypersensitivity 
s/p pacemaker ___
- Anemia, found to have 2 high grade lesions on colonoscopy
- Left hip arthritis
- Glaucoma
- BPH s/p unknown prostate procedure
 
Social History:
___
Family History:
No family history of colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  T 97.4, BP 176/64, HR 86, RR 20, SpO2 98/RA
General: Alert, oriented to self, being in a hospital (cannot 
name hospital or city), no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, PERRL
CV: RRR, normal S1 + S2, II/VI SEM
Chest: PPM under skin in left upper chest wall, overlying skin 
is non-erythematous, non-tender, intact 
Lungs: CTAB, no W/R/C  
Abdomen: Soft, non-tender, non-distended, normoactive bowel 
sounds 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema. R thumb is 
edematous, purple, tender to palpation, and with limited ROM. No 
tenderness, bruising, or deformity noted in L hip/shoulder. 
Neuro: moving all four extremities with purpose, strength ___ in 
UE and ___. Sensation grossly intact.
Skin: many seborrheic keratoses over neck, chest, back, arms

DISCHARGE PHYSICAL EXAM:  
Vitals: T 97.6, BP 128/67, HR 74, RR 16, SpO2 97/RA 
General: Alert, oriented to self, being in a hospital (cannot 
name hospital or city), no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
CV: RRR, normal S1 + S2, II/VI SEM
Chest: PPM under skin in left upper chest wall, overlying skin 
is non-erythematous, non-tender, intact 
Lungs: CTAB, no W/R/C  
Abdomen: Soft, non-tender, non-distended, normoactive bowel 
sounds 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema. R thumb is 
edematous, purple, tender to palpation, and with limited ROM. No 
tenderness, bruising, or deformity noted in L hip/shoulder. ROM 
intact in these joints, and now without pain.
Neuro: moving all four extremities with purpose, strength ___ in 
UE and ___. Sensation grossly intact.
Skin: many seborrheic keratoses over neck, chest, back, arms
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:53AM   PLT COUNT-226
___ 07:53AM   NEUTS-67.7 ___ MONOS-7.4 EOS-2.1 
BASOS-0.5 IM ___ AbsNeut-5.08 AbsLymp-1.65 AbsMono-0.56 
AbsEos-0.16 AbsBaso-0.04
___ 07:53AM   WBC-7.5 RBC-4.56* HGB-13.0* HCT-39.5* MCV-87 
MCH-28.5 MCHC-32.9 RDW-14.1 RDWSD-44.1
___ 07:53AM   CK(CPK)-278
___ 07:53AM   estGFR-Using this
___ 07:53AM   GLUCOSE-133* UREA N-28* CREAT-0.9 SODIUM-136 
POTASSIUM-6.3* CHLORIDE-101 TOTAL CO2-22 ANION GAP-19
___ 09:05AM   K+-4.6
___ 09:15AM URINE  MUCOUS-RARE
___ 09:15AM URINE  HYALINE-4*
___ 09:15AM URINE  RBC-23* WBC-23* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:15AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 09:15AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:15AM URINE  UHOLD-HOLD
___ 09:15AM URINE  HOURS-RANDOM

DISCHARGE LABS
==============
___ 05:15AM BLOOD WBC-7.4 RBC-4.05* Hgb-11.8* Hct-35.4* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-13.9 RDWSD-44.4 Plt ___
___ 05:35AM BLOOD WBC-8.4 RBC-4.54* Hgb-12.8* Hct-39.4* 
MCV-87 MCH-28.2 MCHC-32.5 RDW-13.8 RDWSD-43.9 Plt ___
___ 05:35AM BLOOD Glucose-133* UreaN-23* Creat-0.9 Na-139 
K-4.5 Cl-100 HCO3-22 AnGap-22*
___ 05:35AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.1

IMAGING STUDIES
===============
CT C-SPINE W/O CONTRAST Study Date of ___ 7:56 AM 
FINDINGS:  
Alignment is normal.  There is multilevel degenerative changes 
without significant canal or foraminal narrowing.  Sizable 
anterior osteophytes seen spanning the cervical spine.  No acute 
fractures are identified.  There is no prevertebral edema. 
There are calcifications of the bilateral carotid bifurcations 
and intracranial vertebral arteries.  The thyroid and included 
lung apices are unremarkable.There is a small lipoma in the 
lateral aspect of the neck on the right overlying the 
sternocleidomastoid muscle (3:41, 601b:40).

IMPRESSION:
No evidence acute fracture or malalignment in the cervical 
spine.

CT HEAD W/O CONTRAST Study Date of ___ 7:56 AM 
FINDINGS:  
There is no evidence of acute territory infarction, hemorrhage, 
edema, or mass effect.  Subcortical, deep, and periventricular 
white matter hypodensities are nonspecific, but likely represent 
the sequela of chronic microvascular ischemic disease.  There is 
mild prominence of the ventricles and sulci suggestive of 
involutional changes. 
There is no evidence of fracture.  The visualized portion of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The patient is status post bilateral lens 
resections. 
  
IMPRESSION:  
No evidence of fracture or intracranial hemorrhage. 

CHEST (PORTABLE AP) Study Date of ___ 8:51 AM 
FINDINGS:  
Left chest wall dual lead pacing device is noted.  There is mild 
right basilar atelectasis.  Superiorly the lungs are clear.  The 
cardiomediastinal silhouette is within normal limits.  No acute 
osseous abnormalities. 

IMPRESSION:  
No acute cardiopulmonary process. 

HAND (PA,LAT & OBLIQUE) RIGHT Study Date of ___ 5:47 ___ 
FINDINGS:  
The bones appear diffusely demineralized.  No fracture or 
dislocation is seen. There are marked degenerative changes of 
the first carpal metacarpal joint.  Additionally degenerative 
changes are noted involving the distal interphalangeal joints 
and radiocarpal joint.  No bone erosion or periostitis 
identified. No suspicious lytic or sclerotic lesion is 
identified. No soft tissue calcification or radio-opaque foreign 
bodies are detected. 
  
IMPRESSION:  
No acute osseous injury of the right hand.  Marked degenerative 
changes of the first carpometacarpal joint. 

SHOULDER (AP, NEUTRAL & AXILLARY) TRAUMA LEFT Study Date of 
___ 3:47 ___ 
FINDINGS:  
Three views of the left shoulder provided.  Pacemaker projecting 
over the left axilla somewhat obscures underlying assessment.  
No acute fracture or dislocation.  High-riding left humeral head 
may reflect chronic rotator cuff disease.  Left AC joint 
arthropathy noted with bony hypertrophy and loss of joint space. 
 No worrisome calcifications.  Loss of glenohumeral joint space 
is mild to moderate. 
  
IMPRESSION:  
Degenerative changes as stated above.  No acute fracture or 
dislocation.
 
Brief Hospital Course:
___ with CAD, 2:1 AV block s/p PPM, anemia, colon cancer s/p 
colectomy who presents from assisted living after a fall with 
ongoing confusion, found to have UTI in ED.

# ACUTE TOXIC-METABOLIC ENCEPHALOPATHY
Patient was reported to have increasing confusion and behavioral 
changes at assisted living facility for the week prior to 
admission. Has some ongoing confusion this admission. UA on 
admission with leukocyte esterase, RBC, WBC. Started on 
ceftriaxone for UTI (D1 ___. Urine culture from admission 
negative. Ceftriaxone was stopped on ___. Patient's mental 
status improved slightly during his hospitalization, but it 
waxed and waned, consistent with acute delirium.

# FALL
Patient fell at home with question of LOC. CT head, c-spine on 
admission without any evidence of trauma or injury. There was 
initial concern for possible syncope as precipitant for fall. 
PPM was functioning appropriately with good battery life as of 
last check on ___. Interrogation on ___ revealed an 
episode of atrial tachycardia lasting 20 minutes several days 
prior to the fall with appropriate mode-switching. Patient had 
slightly elevated troponin with normal CK, with no concerning 
signs on EKG. There was no evidence of orthostatic hypotension. 
After further discussion with the patient, he was able to recall 
further events that suggested he may have tripped on his walker 
prior to the fall.

# Hypertension
Patient presented with SBPs in the 170s on admission. He was 
started on low dose captopril with good effect. He was 
transitioned to lisinopril 2.5 mg daily on discharge.

# L SHOULDER/HIP PAIN
Developed in the setting of the fall. X-ray of shoulder on ___ 
without any evidence of fracture or dislocation. Did not 
tolerate hip x-ray, and pain has since resolved.

# RIGHT THUMB SWELLING/BRUISING
There was no evidence of fracture/dislocation on plain films. 
Suspect sprain leading to bruising and swelling in the setting 
of contact during fall.

# 2:1 AV BLOCK, PPM DEPENDENT
At last PPM check on ___, patient being v-paced 100%, a-paced 
13.6%. Interrogation on ___ revealed an episode of atrial 
tachycardia lasting 20 minutes several days prior to the fall 
with appropriate mode-switching. Asymptomatic.

# CORONARY ARTERY DISEASE
Patient has a history of a LAD infarct. ECG showed ventricular 
pacing. On metoprolol, atorvastatin, aspirin, PRN SL NTG. Trop 
slightly elevated on admission, but history not consistent with 
ACS given no symptoms consistent with ACS prior.

# ANEMIA
At baseline, hemoglobin ___. Normocytic. Previously 
iron-deficient, now on 325 mg ferrous sulfate daily at home. 
Thought to be related to colon cancer, for which treatment is 
deferred. Hgb 13 on admission.

# COLON CANCER
s/p laparoscopic R colectomy on ___, pT2N0M1. Now with 
suspected liver metastases, but further work up deferred as 
outpatient due to goals of care.

TRANSITIONAL ISSUES
[ ] Code Status: A MOLST form was filled out with the patient 
and the patient's step son, ___, HCP (___), 
and the patient was quite clear that he did not want 
cardiopulmonary resuscitation, but that he would like to be 
intubated for SHORT and REVERSIBLE causes.
[ ] Patient will require ongoing physical therapy to help avoid 
future falls.
[ ] Given patient's age, frailty, and goals of care, no 
additional work up performed for elevated troponin. Please 
consider performing additional CAD work up with nuclear stress 
test if indicated.
[ ] Patient had SBP to 170s on presentation. Started on 
lisinopril 2.5 mg for BP control. Please titrate as needed.

Greater than 30 minutes was spent on this patient's discharge 
day management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. brimonidine 0.2 % ophthalmic BID 
2. Tamsulosin 0.4 mg PO QHS 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Furosemide 10 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Aspirin 81 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID:PRN constipation 
10. Ferrous GLUCONATE 324 mg PO DAILY 
11. Carbamide Peroxide 6.5% 5 DROP BOTH EARS 1X/WEEK (___) 
12. ipratropium bromide 0.06 % nasal QID:PRN 

 
Discharge Medications:
1.  Lisinopril 2.5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  brimonidine 0.2 % ophthalmic BID  
5.  Carbamide Peroxide 6.5% 5 DROP BOTH EARS 1X/WEEK (___)  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Ferrous GLUCONATE 324 mg PO DAILY  
8.  Furosemide 10 mg PO DAILY  
9.  ipratropium bromide 0.06 % nasal QID:PRN  
10.  Metoprolol Succinate XL 12.5 mg PO DAILY  
11.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
12.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
13.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY: mechanical fall, delirium, hypertension
SECONDARY: heart block with pacemaker, chronic anemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___. 

Why did you come to the hospital?
- You appeared more confused to the staff at your assisted 
living and suffered a fall.

What did you receive in the hospital?
- We initially treated you for a urinary tract infection but 
your urine ultimately did not grow any organisms, so the 
antibiotics were stopped.
- We had the heart doctors ___ at your pacemaker, and there 
were no abnormal heart rhythms that could have caused your fall 
due to poor blood flow to the brain.
- After all our work up, we could not find a definite reason for 
your fall other than possible physical deconditioning, which is 
why we are sending you to rehab.

What should you do once you leave the hospital?
- Please work with the rehab therapist on your physical strength 
and stability.

We wish you the best!

Your ___ Care Team
 
Followup Instructions:
___